US07288544B2
6) Synthesis of 6-(2-azidoethoxy) methyl-4-(3-chlorophenyl)-5-(3,3-diphenylpropylcarbamoyl)-2-methyl-1,4-dihydropyridine-3-carboxylic acid:
250 mg (0.390 mmol) of 6-(2-azidoethoxy) methyl-4-(3-chlorophenyl)-5-(3,3-diphenylpropylcarbamoyl)-2-methyl-1,4-dihydropyridine-3-carboxylic acid (2-cyanoethyl) ester was dissolved in 2 ml of methanol. 0.70 ml of 1 N aqueous sodium hydroxide solution was added and stirred at room temperature for 8 hours. After adding 1 N hydrochloric acid and water, precipitates thus formed were taken by the filtration and dried under reduced pressure to obtain the title compound.

reactant | 6-(2-azidoethoxy) methyl-4-(3-chlorophenyl)-5-(3,3-diphenylpropylcarbamoyl)-2-methyl-1,4-dihydropyridine-3-carboxylic acid (2-cyanoethyl) ester | 0.390 mmol, 250 mg | C(#N)CCOC(=O)C1=C(NC(=C(C1C1=CC(=CC=C1)Cl)C(NCCC(C1=CC=CC=C1)C1=CC=CC=C1)=O)COCCN=[N+]=[N-])C | C35H35ClN6O4
reactant | sodium hydroxide | 1 N, 0.70 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
reactant | water | O | H2O
solvent | methanol | 2 ml | CO | CH4O
product | 6-(2-azidoethoxy) methyl-4-(3-chlorophenyl)-5-(3,3-diphenylpropylcarbamoyl)-2-methyl-1,4-dihydropyridine-3-carboxylic acid | N(=[N+]=[N-])CCOCC1=C(C(C(=C(N1)C)C(=O)O)C1=CC(=CC=C1)Cl)C(NCCC(C1=CC=CC=C1)C1=CC=CC=C1)=O | C32H32ClN5O4
